US09227963B2
methyl cyclooctanecarboxylate
To a solution of cyclooctanecarbaldehyde (5.0 g) in methanol (300 mL) was added Oxone (22 g). The mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under vacuum and the residue was diluted with ethyl acetate (300 mL) and washed with 1N aqueous HCl, water, and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the crude product.

reactant | cyclooctanecarbaldehyde | 5.0 g | C1(CCCCCCC1)C=O | C9H16O
reactant | Oxone | 22 g | OOS(=O)[O-].[K+]
reactant | methanol | 300 mL | CO | CH4O
product | methyl cyclooctanecarboxylate | C1(CCCCCCC1)C(=O)OC | C10H18O2
